US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-(3-methylbut-2-enyloxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester (96 mg) was treated with 450 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 50 μL of 4-bromo-2-methyl-2-butene to give the alkylated product, which was deprotected to yield 14.5 mg of the title compound as an oil.

reactant | 6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-(3-methylbut-2-enyloxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 96 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C.COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)C(C)OCC=C(C)C
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | 4-bromo-2-methyl-2-butene | 50 μL | BrCC=C(C)C | C5H9Br
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 14.5 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
